US05294623
1-[2-Bis(4-fluorophenyl)methoxyethyl)-4-piperidinol
14.1 g of 1-bis(4-fluorophenyl)methoxy-2-chloroethane, 10.1 g of 4-hydroxypiperidine, 12 g of sodium carbonate and 0.2 g of sodium iodide were added to 200 ml of methyl isobutyl ketone, and the mixture was heated under reflux for 4 hours. At the end of this time, it was filtered, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by silica gel column chromatography. Elution with a 10:1 by volume mixture of ethanol and methylene chloride afforded 11.5 g (yield 66%) of the title compound as a pale yellow oily substance. p Infrared Absorption Spectrum (CHCl3), νmax cm-1 : 2920, 1600, 1505.

reactant | 1-bis(4-fluorophenyl)methoxy-2-chloroethane | 14.1 g | FC1=CC=C(C=C1)C(OCCCl)C1=CC=C(C=C1)F | C15H13ClF2O
reactant | 4-hydroxypiperidine | 10.1 g | OC1CCNCC1 | C5H11NO
reactant | sodium carbonate | 12 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | sodium iodide | 0.2 g | [I-].[Na+]
solvent | methyl isobutyl ketone | 200 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-[2-Bis(4-fluorophenyl)methoxyethyl)-4-piperidinol | 11.5 g, yield 66% | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)O)C1=CC=C(C=C1)F | C20H23F2NO2
